US04865617
Preparation of 5-methoxy-2-methyl-2-propyl-1,3-benzodioxole
0.35 mole (48.5 g) of 1,2-dihydroxy-4-methoxybenzene, 0.38 mole (32.7 g) of 2-pentanone and 1 g of p-toluenesulphonic acid are added to 350 ml of benzene. The mixture is heated under benzene reflux in order to remove the water formed. After 50 hours' heating, the reaction mixture is cooled and is then filtered through paper. After evaporation under reduced pressure, a brown oil is obtained and is dissolved in 500 ml of ethyl ether. After extraction with a solution of sodium carbonate in water in order to remove the unreacted 1,2-dihydroxy-4-methoxybenzene, the ethereal phase is dried with sodium sulphate. After evaporation of the ethyl ether under reduced pressure, the expected product is obtained and is employed as such in the following stage.

reactant | 1,2-dihydroxy-4-methoxybenzene | 0.35 mole, 48.5 g | OC1=C(C=C(C=C1)OC)O | C7H8O3
reactant | 2-pentanone | 0.38 mole, 32.7 g | CC(CCC)=O | C5H10O
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 350 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | 5-methoxy-2-methyl-2-propyl-1,3-benzodioxole | COC1=CC2=C(OC(O2)(CCC)C)C=C1 | C12H16O3
